US04673746
A solution of 18.4 g of 2,3-dichloro-4-hydroxy-2'-fluorobenzophenone oxime and 3.6 g of sodium hydride in 120 ml of dimethylformamide and 120 ml of benzene is maintained at a temperature of from 80°-85° C. for 3 hours. Thereafter, the mixture is permitted to reach ambient temperature after which a solution of 11.0 g of ethyl bromoacetate in 20 ml of dimethylformamide is added dropwise. After the addition is complete, the mixture is stirred for 30 minutes and then water is added to decompose any excess sodium hydride. The mixture is extracted with ethyl acetate and the combined extracts are dried and evaporated to dryness leaving a solid residue. The residue is recrystallized several times from 95% ethyl alcohol to yield the pure product ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate having a melting point of 102° to 104° C.

reactant | 2,3-dichloro-4-hydroxy-2'-fluorobenzophenone oxime | 18.4 g | ClC1=C(C(C2=C(C=CC=C2)F)=NO)C=CC(=C1Cl)O | C13H8Cl2FNO2
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 11.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO4
